US05976604
Sucrose monolaurate (SM-1200, produced by Mitsubishi Chemical Foods K.K.) dissolved in distilled water uniformly, and n-decane (guaranteed reagent, produced by Tokyo Kasei Kogyo K.K.) were put in a test tube with a screw closure, and 0.5% by volume of adsorbent cotton (adsorbent cotton according to Japanese Pharmacopeia, produced by Toei K.K.) was added thereto. The system was emulsified by shaking by hand at 25° C. to prepare an oil-in-water emulsion composition, then the cotton was taken out.

reactant | Sucrose monolaurate | CCCCCCCCCCCC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O | C24H44O12
solvent | water | O | H2O
product | n-decane | CCCCCCCCCC | C10H22
